US08044209B2
A solution of {(S)-2-[(S)-2-(2-benzoimidazol-1-yl-pyridin-4-yl)-pyrrolidin-1-yl]-1-cyclohexyl-2-oxo-ethyl}-carbamic acid tert-butyl ester (70 mg, 0.14 mmol) in DCM (2 mL) is added TFA (2 mL). After stirring at room temperature for 1 h, the reaction mixture is concentrated down to give crude (S)-2-Amino-1-[(S)-2-(2-benzoimidazol-1-yl-pyridin-4-yl)-pyrrolidin-1-yl]-2-cyclohexyl-ethanone, which is used in next step without further purification.

reactant | {(S)-2-[(S)-2-(2-benzoimidazol-1-yl-pyridin-4-yl)-pyrrolidin-1-yl]-1-cyclohexyl-2-oxo-ethyl}-carbamic acid tert-butyl ester | 0.14 mmol, 70 mg | C(C)(C)(C)OC(N[C@H](C(=O)N1[C@@H](CCC1)C1=CC(=NC=C1)N1C=NC2=C1C=CC=C2)C2CCCCC2)=O | C29H37N5O3
reactant | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | (S)-2-Amino-1-[(S)-2-(2-benzoimidazol-1-yl-pyridin-4-yl)-pyrrolidin-1-yl]-2-cyclohexyl-ethanone | N[C@H](C(=O)N1[C@@H](CCC1)C1=CC(=NC=C1)N1C=NC2=C1C=CC=C2)C2CCCCC2 | C24H29N5O
